US09301951B2
2-(2-(3-((Methyl(2-(4-methylpiperazin-1-yl)ethyl)amino)methyl)benzamido)-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide
Into a 25-mL round-bottom flask, was placed 190 mg of tert-butyl 4-(2-(methyl(3-((4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)-carbamoyl)benzyl)amino)ethyl)piperazine-1-carboxylate and 10 mL of 1:1 dichloromethane/TFA. After stirring for 2 hours, the solvent was evaporated. The residue was dissolved in 10 mL of aqueous sodium bicarbonate solution. The mixture was stirred for 20 minutes at room temperature. The resulting solution was extracted with 3×10 mL of ethyl acetate and the organic layers combined. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 150 mg of N-(3-(trifluoromethyl)benzyl)-2-(2-(3-((methyl(2-(piperazin-1-yl)ethyl)amino)methyl)-benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide. Into a 50-mL round-bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-(3-((methyl(2-(piperazin-1-yl)ethyl)amino)methyl)benzamido)-5-(piperidin-1-yl)-phenyl)isonicotinamide (150 mg, 0.21 mmol, 1.00 equiv) in formaldehyde solution (5 mL), sodium cyanoborohydride (16 mg, 0.25 mmol, 1.20 equiv), and acetic acid (cat.). The resulting solution was stirred for 2 h at room temperature. The resulting solution was diluted with 2 mL of water. The resulting solution was extracted with 2×5 mL of ethyl acetate and the organic layers combined and dried over sodium sulfate and concentrated under vacuum. The crude product (150 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 21.3 mg (8%) of a yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 12.18 (s, 1H), 9.57 (s, 1H), 9.56-9.54 (d, J=6.0 Hz, 1H), 8.93-8.91 (d, J=5.1 Hz, 1H), 8.32 (s, 1H), 8.23-8.20 (d, J=9.0 Hz, 1H), 8.08 (s, 1H), 7.98-7.96 (d, J=7.8 Hz, 1H), 7.84-7.82 (m, 6H), 7.50 (s, 1H), 7.22 (s, 1H), 4.81-4.80 (m, 1H), 4.68-4.60 (m, 3H), 4.44 (s, 3H), 3.41-3.38 (d, J=10.5 Hz, 2H), 3.28-3.20 (m, 6H), 2.98-2.94 (d, J=12 Hz, 4H), 2.78-2.73 (m, 7H), 2.51-2.49 (m, 2H), 1.76 (s, 4H), 1.59-1.57 (d, J=4.5 Hz, 2H). MS (ES, m/z): 728 [M+H]+.

reactant | tert-butyl 4-(2-(methyl(3-((4-(piperidin-1-yl)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)-carbamoyl)benzyl)amino)ethyl)piperazine-1-carboxylate | 190 mg | CN(CCN1CCN(CC1)C(=O)OC(C)(C)C)CC1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)=O | C45H54F3N7O4
reactant | dichloromethane TFA | 10 mL | ClCCl.C(=O)(C(F)(F)F)O
reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-((methyl(2-(piperazin-1-yl)ethyl)amino)methyl)benzamido)-5-(piperidin-1-yl)-phenyl)isonicotinamide | 0.21 mmol, 150 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CN(CCN2CCNCC2)C)=O)=O)C=CC1)(F)F | C40H46F3N7O2
reactant | sodium cyanoborohydride | 0.25 mmol, 16 mg, 1.20 equiv | C(#N)[BH3-].[Na+]
solvent | formaldehyde | 5 mL | C=O | CH2O
solvent | water | 2 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2-(3-((Methyl(2-(4-methylpiperazin-1-yl)ethyl)amino)methyl)benzamido)-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | 21.3 mg, 8% | CN(CCN1CCN(CC1)C)CC=1C=C(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C=2C=C(C(=O)NCC3=CC(=CC=C3)C(F)(F)F)C=CN2)C=CC1 | C41H48F3N7O2
